US08877772B2
Preparation of 3-[4-(1H-imidazol-2-yl)-phenyl]-5-(3,4,5-trimethoxy-phenyl)-1H-pyrrolo[2,3-b]pyridine
3-Iodo-1-(toluene-4-sulfonyl)-5-(3,4,5-trimethoxy-phenyl)-1H-pyrrolo[2,3-b]pyridine (Intermediate CJ, 30 mg, 0.053 mmol), 2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazole (Intermediate CG, 18 mg, 0.064 mmol) and dichlorobis(triphenylphosphine)palladium (II) (2 mg, 0.003 mmol) were combined in CH3CN (1 ml) and 1 M Na2CO3 (1 ml) and stirred at 60° C. for 2 d. Additional Intermediate CG (18 mg, 0.064 mmol) was added and stirring was continued for another day. EtOAc was added and the mixture was washed with water, dried, evaporated and purified by silica gel chromatography using 0-5% MeOH:DCM to yield 5 mg (22%) of the title compound. MS ESI (m/z): 427.2 (M+1)+, calc. 426.

reactant | 3-Iodo-1-(toluene-4-sulfonyl)-5-(3,4,5-trimethoxy-phenyl)-1H-pyrrolo[2,3-b]pyridine | 0.053 mmol, 30 mg | IC1=CN(C2=NC=C(C=C21)C2=CC(=C(C(=C2)OC)OC)OC)S(=O)(=O)C2=CC=C(C=C2)C | C23H21IN2O5S
reactant | 2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazole | 0.064 mmol, 18 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C=1NC=CN1)C | C15H19BN2O2
reactant | Na2CO3 | 1 M, 1 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH3CN | 1 ml | CC#N | C2H3N
catalyst | dichlorobis(triphenylphosphine)palladium | 0.003 mmol, 2 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-[4-(1H-imidazol-2-yl)-phenyl]-5-(3,4,5-trimethoxy-phenyl)-1H-pyrrolo[2,3-b]pyridine | 5 mg, 22% | N1C(=NC=C1)C1=CC=C(C=C1)C1=CNC2=NC=C(C=C21)C2=CC(=C(C(=C2)OC)OC)OC | C25H22N4O3
